US06963012B2
Using 3,5-dichlorophenol and 4-fluorobenzaldehyde, reactions were carried out in the same manner as in Reference Example 1 to obtain 4-(3,5-dichlorophenoxy)benzaldehyde. The subsequent reactions were carried out in the same manner as in Reference Example 123, except that sodium borohydride was used in place of lithium aluminum hydride. This gave 4-(3,5-dichlorophenoxy)benzyl alcohol. The alcohol (2.03 g) and carbon tetrabromide (2.75 g) in methylene chloride (30 mL) were stirred at 0° C., and triphenyl phosphine (2.17 g) was added to the solution. The resulting mixture was stirred for 1 hour at 0° C. and then for 30 minutes at room temperature. Subsequently, the solvent was removed by distillation under reduced pressure and the residue was purified by silica gel column chromatography (hexane:ethyl acetate=20:1). In this manner, the desired product (3.12 g) was obtained as a colorless oil.

reactant | 3,5-dichlorophenol | ClC=1C=C(C=C(C1)Cl)O | C6H4Cl2O
reactant | 4-fluorobenzaldehyde | FC1=CC=C(C=O)C=C1 | C7H5FO
product | 4-(3,5-dichlorophenoxy)benzaldehyde | ClC=1C=C(OC2=CC=C(C=O)C=C2)C=C(C1)Cl | C13H8Cl2O2
